US09290485B2
To a cooled (0° C.) solution 1 g (5.23 mmol) of methyl 1,2,3,4-tetrahydroquinoline-7-carboxylate in THF (10 ml) was added 20.92 ml, (20.92 mmol) of a solution of DIBAL-H in THF. The reaction mixture was stirred for 2 hr at 0° C. Additional DIBAL-H in THF (15.69 ml, 15.69 mmol) was added. The reaction mixture was allowed to warm to 20° C. and stirring was continued for 16 hr. The reaction mixture was treated with 30 mL of 10% aqueous sodium potassium tartrate and stirred for 1 h. Water was added and the mixture was extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure to give (1,2,3,4-tetrahydroquinolin-7-yl)methanol. HPLC (Method H) Rt=2.74 min; MS (Method A) [M+H]+=164.1

reactant | methyl 1,2,3,4-tetrahydroquinoline-7-carboxylate | 5.23 mmol, 1 g | N1CCCC2=CC=C(C=C12)C(=O)OC | C11H13NO2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | sodium potassium tartrate | 30 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | Water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15.69 mmol, 15.69 ml | C1CCOC1 | C4H8O
product | (1,2,3,4-tetrahydroquinolin-7-yl)methanol | N1CCCC2=CC=C(C=C12)CO | C10H13NO
